US04596870
1-(4-Chlorophenoxy)methyl-5-iodopyrimidin-2-one
The title compound was prepared in a manner similar to that described in Example 6, by adding a solution of 1-chloromethoxy-4-chlorobenzene (see Preparation 3) (10 mmol) in dichloromethane (10 ml) to a solution of 5-iodopyrimidin-2-one (10 mmol) and triethylamine (10 mmol) in dichloromethane (50 ml), and heating the resultant mixture under reflux for 3 h. The product, 2.05 g (56%), consisted of the N- and O-isomers in the ratio 4:1. The O-isomer was removed from the product by extraction with acetone and the remaining N-isomer was recrystallized from EtOAc; m.p. 216° C. (Found C36.64; H2.24 Calc. for C11H8ClIN2O2 : C36.44; H2.23) 1H NMR (DMSO-d6 /CDCl3); δ 5.85 (CH2), 6.9-7.5 (Ph), 8.68 and 8.82 (H-4 and H-6, respectively, J 3 Hz). IR (KBr) 1650 cm-1 (CO). MS (70 eV, m/z (% rel. int.)): 362 (37,M) 235 (100), 222 (6), 108 (22).

reactant | 1-chloromethoxy-4-chlorobenzene | 10 mmol | ClCOC1=CC=C(C=C1)Cl | C7H6Cl2O
reactant | 5-iodopyrimidin-2-one | 10 mmol | IC=1C=NC(NC1)=O | C4H3IN2O
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-Chlorophenoxy)methyl-5-iodopyrimidin-2-one | ClC1=CC=C(OCN2C(N=CC(=C2)I)=O)C=C1 | C11H8ClIN2O2
